US09212348B2
Synthesis of 2-(4-hexylphenyl)acetic acid
12.0 g (39.3 mmol) of 1-(4-hexylphenyl)ethanone was dissolved in 23.6 g (393 mmol) of glacial acetic acid mixed with 4.95 g (275 mmol) of water and 5.79 g (58.9 mmol) of sulfuric acid and heated at 150° C. for 6.5 hours under reflux. After completion of the reaction, the reaction solution was diluted with 400 mL of water and extracted with ethyl acetate. The resulting organic layer was dried over anhydrous magnesium sulfate and filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography using ethyl acetate:hexane (1:20 to 1:4) as the eluent to give 5.74 g of the desired product as white crystals.

reactant | 1-(4-hexylphenyl)ethanone | 39.3 mmol, 12.0 g | C(CCCCC)C1=CC=C(C=C1)C(C)=O | C14H20O
reactant | acetic acid | 393 mmol, 23.6 g | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 58.9 mmol, 5.79 g | S(O)(O)(=O)=O | H2O4S
solvent | water | 400 mL | O | H2O
solvent | water | 275 mmol, 4.95 g | O | H2O
product | 2-(4-hexylphenyl)acetic acid | 5.74 g | C(CCCCC)C1=CC=C(C=C1)CC(=O)O | C14H20O2
